US07786120B2
tert-Butyl 4-(4-((E)-2-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate
To a mixture of tert-butyl 4-(4-((E)-2-(5-bromo-2-methoxypyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate (2.07 g, 4.36 mmol), bis(pinacolato)diboron (1.22 g, 4.80 mmol), potassium acetate (1.29 g, 13.1 mmol) and PdCl2(dppf) (91 mg, 0.13 mmol) under nitrogen was added anhydrous dioxane (60 mL) and the reaction mixture was heated at reflux overnight. The reaction mixture was partitioned between EtOAc (50 mL) and water (50 mL). The aqueous layer was re-extracted with EtOAc (50 mL) and the combined organics were dried (MgSO4) and filtered and concentrated. The residue was filtered through a short pad of silica (with 50% EtOAc in PE). On concentration the title compound (1.90 g, 84%) precipitated as a white solid. 1H NMR (CDCl3) 1.38 (12H, s), 1.50 (9H, s), 3.20 (4H, t), 3.63 (4H, t), 4.09 (3H, s), 6.95 (2H, d), 7.02 (2H, m), 8.17 (1H, s), 8.56 (1H, s).

reactant | tert-butyl 4-(4-((E)-2-(5-bromo-2-methoxypyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate | 4.36 mmol, 2.07 g | BrC=1C=C(C(=NC1)OC)/C=C/C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H28BrN3O3
reactant | bis(pinacolato)diboron | 4.80 mmol, 1.22 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 13.1 mmol, 1.29 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf) | 0.13 mmol, 91 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(4-((E)-2-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate | COC1=NC=C(C=C1/C=C/C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)B1OC(C(O1)(C)C)(C)C | C29H40BN3O5
